US09278910B2
Prepared from INT-62 and INT-40. To a stirred solution of 4-((N-(2-(tert-butoxy)-2-oxoethyl)-4-((tert-butoxycarbonyl)amino)benzamido)methyl)benzoic acid INT-62 (1.57 g, 3.24 mmol) in dioxane (40 mL) and 4-methylmorpholine (0.712 mL, 6.48 mmol) was added isobutyl carbonochloridate (0.420 mL, 3.24 mmol) dropwise. After 30 min the reaction mixture was added to a solution of (Z)—N′-hydroxy-4′-methyl-[1,1′-biphenyl]-4-carboximidamide INT-40 (0.733 g, 3.24 mmol) in DMF (4 mL). After 30 mins the reaction was heated at 110° C. for 2 h. The reaction mixture was cooled to room temperature, diluted with EA (150 mL) and washed with brine (200 mL). The organics were pre-absorbed onto silica gel and purified by chromatography (MeCN/DCM) to afford 659 mg (30%) of tert-butyl 2-(4-((tert-butoxycarbonyl)amino)-N-(4-(3-(4′-methyl-[1,1′-biphenyl]-4-yl)-1,2,4-oxadiazol-5-yl)benzyl)benzamido)acetate INT-63 as a viscous oil. LCMS-ESI (m/z) calculated for C40H42N4O6: 674; no m/z observed, tR=3.29 min (Method 10).

reactant | 4-((N-(2-(tert-butoxy)-2-oxoethyl)-4-((tert-butoxycarbonyl)amino)benzamido)methyl)benzoic acid | C(C)(C)(C)OC(CN(C(C1=CC=C(C=C1)NC(=O)OC(C)(C)C)=O)CC1=CC=C(C(=O)O)C=C1)=O | C26H32N2O7
reactant | 4-methylmorpholine | 6.48 mmol, 0.712 mL | CN1CCOCC1 | C5H11NO
reactant | isobutyl carbonochloridate | 3.24 mmol, 0.420 mL | C(OCC(C)C)(=O)Cl | C5H9ClO2
reactant | (Z)—N′-hydroxy-4′-methyl-[1,1′-biphenyl]-4-carboximidamide | O\N=C(/N)\C1=CC=C(C=C1)C1=CC=C(C=C1)C | C14H14N2O
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | EA | 150 mL | CC(OCC)=O | C4H8O2
product | tert-butyl 2-(4-((tert-butoxycarbonyl)amino)-N-(4-(3-(4′-methyl-[1,1′-biphenyl]-4-yl)-1,2,4-oxadiazol-5-yl)benzyl)benzamido)acetate | 659 mg, 30% | C(C)(C)(C)OC(=O)NC1=CC=C(C(=O)N(CC2=CC=C(C=C2)C2=NC(=NO2)C2=CC=C(C=C2)C2=CC=C(C=C2)C)CC(=O)OC(C)(C)C)C=C1 | C40H42N4O6
